US04456604
A solution of 1-(3-fluoro-2-pyridinyl)-4-carbethoxy piperazine (700 mg, 2.76 mmol) in 50 ml of 6N hydrochloric acid is stirred at reflux under N2 for 6 hours and then concentrated under reduced pressure. The residue is recrystallized from an ethanol-ethyl acetate mixture to give 1-(3-fluoro-2-pyridinyl) piperazine dihydrochloride.

reactant | 1-(3-fluoro-2-pyridinyl)-4-carbethoxy piperazine | 2.76 mmol, 700 mg | FC=1C(=NC=CC1)N1CCN(CC1)C(=O)OCC | C12H16FN3O2
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
product | 1-(3-fluoro-2-pyridinyl) piperazine dihydrochloride | Cl.Cl.FC=1C(=NC=CC1)N1CCNCC1 | InChI=1S/C9H12FN3.2ClH/c10-8-2-1-3-12-9(8)13-6-4-11-5-7-13;;/h1-3,11H,4-7H2;2*1H
